US05723479
A mixture of 2-(2-cyanoethyl)-6-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzofuran (1.20 g), sodium azide (1.09 g), ammonium chloride (0.90 g) and N,N-dimethylformamide (30 ml) was stirred at 130° to 140° C. for 16 hours. The reaction mixture was poured over water and extracted with ethyl acetate. After the ethyl acetate layer was washed with water and dried (MgSO4), the solvent was distilled off; the residue was subjected to silica gel column chromatography. From the fraction eluted with methanol-chloroform (5:95, v/v), 5-[2-[6-(5-methyl-2-phenyl-4-oxazolylmethoxy)-2-benzofuranyl]ethyl ]-1H-tetrazole (1.05 g, 78%) was obtained, which was then recrystallized from dichloromethane-methanol to yield colorless prisms having a melting point of 177° to 178° C.

reactant | 2-(2-cyanoethyl)-6-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzofuran | 1.20 g | C(#N)CCC=1OC2=C(C1)C=CC(=C2)OCC=2N=C(OC2C)C2=CC=CC=C2 | C22H18N2O3
reactant | sodium azide | 1.09 g | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | 0.90 g | [Cl-].[NH4+]
reactant | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 5-[2-[6-(5-methyl-2-phenyl-4-oxazolylmethoxy)-2-benzofuranyl]ethyl ]-1H-tetrazole | 1.05 g, 78% | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=CC2=C(C=C(O2)CCC2=NN=NN2)C=C1 | C22H19N5O3
